US08357679B2
C: 1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)phenyl)-3-(pyridin-4-yl)urea
2-(4-((4-(4-Aminophenyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol (0.231 mmol, 0.1 g) and phenyl pyridin-4-ylcarbamate (0.346 mmol, 0.074 g) were combined in dioxane (1 mL) in a Reactivial and heated to 100° C. for 2 days. The reaction mixture was concentrated at reduced pressure. The resulting residue was taken up in dichloromethane, washed with water, dried over sodium sulphate and concentrated at reduced pressure. The residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 6% methanol/dichloromethane) to afford the title compound (43 mg). MS (ESI) m/z 555.2 [M+H]+

reactant | 2-(4-((4-(4-Aminophenyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 0.231 mmol, 0.1 g | NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C20H21F6N3O
reactant | phenyl pyridin-4-ylcarbamate | 0.346 mmol, 0.074 g | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)phenyl)-3-(pyridin-4-yl)urea | 43 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)C=C1)(F)F | C26H25F6N5O2
